US07375204B2
1-[2-(2-Phenyl-1-ethynyl)benzyl]isoquinoline
A solution of tetrakis(triphenylphosphine)palladium (58 mg, 0.05 mmol) and ethynylbenzene (204 mg, 2.0 mmol) in pyrrolidine (1.5 ml) was added to a solution of the compound of Example B25 (345 mg, 1.07 mmol) in pyrrolidine (1.5 ml) under nitrogen atmosphere, and the mixture was stirred at 80° C. for 3 hours. The mixture was cooled to room temperature, diluted with ethyl acetate, washed with a saturated aqueous ammonium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel chromatography to give the title compound (280 mg).

reactant | ethynylbenzene | 2.0 mmol, 204 mg | C(#C)C1=CC=CC=C1 | C8H6
reactant | pyrrolidine | 1.5 ml | N1CCCC1 | C4H9N
reactant | pyrrolidine | 1.5 ml | N1CCCC1 | C4H9N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[2-(2-Phenyl-1-ethynyl)benzyl]isoquinoline | 280 mg | C1(=CC=CC=C1)C#CC1=C(CC2=NC=CC3=CC=CC=C23)C=CC=C1 | C24H17N
